** sch_path: /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-9/design/opamp_core.sch
**.subckt opamp_core vdd vss inn inp out ibias

*.iopin vdd
*.iopin vss
*.iopin inn
*.iopin inp
*.iopin out
*.iopin ibias
XM1 d1 inn tail vss sg13_lv_nmos w=3.2u l=0.13u ng=1 m=1
XM2 d2 inp tail vss sg13_lv_nmos w=3.2u l=0.13u ng=1 m=1
XM3 d1 d1 vdd vdd sg13_lv_pmos w=1.04u l=0.52u ng=1 m=1
XM4 d2 d1 vdd vdd sg13_lv_pmos w=1.04u l=0.52u ng=1 m=1
XM5 tail ibias vss vss sg13_lv_nmos w=2.2u l=0.52u ng=1 m=1
XMbias ibias ibias vss vss sg13_lv_nmos w=2.2u l=0.52u ng=1 m=1
XM6 out d2 vdd vdd sg13_lv_pmos w=33u l=1.04u ng=1 m=1
XM7 out ibias vss vss sg13_lv_nmos w=11.9u l=0.52u ng=1 m=1
XCc out d2 cap_cmim w=25.7u l=25.7u m=1
**.ends
.end
